US07129238B2
(RS)-(2,3-Difluoro-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-N-(4-cyano-benzyl)-2-(2,3-difluoro-phenyl)-2-methoxy-acetamide. Off-white solid.

reactant | (RS)-(2,3-Difluoro-phenyl)-methoxy-acetic acid | FC1=C(C=CC=C1F)C(C(=O)O)OC | C9H8F2O3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-(2,3-difluoro-phenyl)-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=CC=C2)F)F)=O)C=C1 | C17H14F2N2O2
